US07115645B2
6-[[5-[(Benzylsulfonyl)amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester
6-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid isopropyl ester was reacted with benzenemethanesulfonic acid chloride according to general operating instructions 13.

reactant | 6-[(5-Amino-1,2-diphenyl-1H-benzimidazol-6-yl)oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)N)=O | C28H31N3O3
reactant | benzenemethanesulfonic acid chloride | C1(=CC=CC=C1)CS(=O)(=O)Cl | C7H7ClO2S
product | 6-[[5-[(Benzylsulfonyl)amino]-1,2-diphenyl-1H-benzimidazol-6-yl]oxy]hexanoic acid isopropyl ester | C(C)(C)OC(CCCCCOC=1C(=CC2=C(N(C(=N2)C2=CC=CC=C2)C2=CC=CC=C2)C1)NS(=O)(=O)CC1=CC=CC=C1)=O | C35H37N3O5S
